US07432287B2
After adding 29.0 g of molecular sieves 4A, 22.0 g (0.13 mol) of p-methylthiophenylboric acid, 21.6 g (0.13 mol) of copper (II) acetate and 83.0 ml (0.59 mol) of triethylamine to a solution of 20.0 g (0.12 mol) of 3,5-dihydroxybenzoic acid methyl ester in methylene chloride (1.2 l), the mixture was stirred at room temperature overnight under an oxygen atmosphere. The reaction mixture was filtered and then concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:acetic acid ethyl ester=2:1) to obtain 12.4 g of 5-hydroxy-3-(4-methylthiophenoxy)benzoic acid methyl ester (yield: 36%) as a yellow solid.

reactant | p-methylthiophenylboric acid | 0.13 mol, 22.0 g | CSC1=CC=C(C=C1)OB(O)O | C7H9BO3S
reactant | triethylamine | 0.59 mol, 83.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dihydroxybenzoic acid methyl ester | 0.12 mol, 20.0 g | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
solvent | methylene chloride | 1.2 l | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 0.13 mol, 21.6 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-hydroxy-3-(4-methylthiophenoxy)benzoic acid methyl ester | 12.4 g, yield: 36% | COC(C1=CC(=CC(=C1)O)SC1=CC=C(C=C1)C)=O | C15H14O3S
